US07173043B2
In analogy to example 14.1, Trifluoro-methanesulfonic acid 3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl ester and (1,1-Dimethyl-prop-2-ynyl)-ethyl-(2-methoxy-ethyl)-amine were converted to yield {1,1-Dimethyl-3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl}-ethyl-(2-methoxy-ethyl)-amine as brown oil, MS: 447 (MH+).

reactant | Trifluoro-methanesulfonic acid 3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl ester | FC(C1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OS(=O)(=O)C(F)(F)F)(F)F | C15H7F6NO3S2
reactant | (1,1-Dimethyl-prop-2-ynyl)-ethyl-(2-methoxy-ethyl)-amine | CC(C#C)(C)N(CCOC)CC | C10H19NO
product | {1,1-Dimethyl-3-[3-(4-trifluoromethyl-phenyl)-benzo[d]isothiazol-6-yl]-prop-2-ynyl}-ethyl-(2-methoxy-ethyl)-amine | CC(C#CC1=CC2=C(C(=NS2)C2=CC=C(C=C2)C(F)(F)F)C=C1)(C)N(CCOC)CC | C24H25F3N2OS
